US07091222B2
Step 1: 4-Iodo-2-methyl-1-(2,2,2-trifluoro-ethyl)-1H-imidazole
The title compound, MS: m/e=291.0 (M+H+), was prepared in accordance with the general method of example 1 from 5-iodo-2-methyl-1H-imidazole and 2,2,2-trifluoroethyl mesylate.

reactant | 5-iodo-2-methyl-1H-imidazole | IC1=CN=C(N1)C | C4H5IN2
reactant | 2,2,2-trifluoroethyl mesylate | S(C)(=O)(=O)OCC(F)(F)F | C3H5F3O3S
product | 4-Iodo-2-methyl-1-(2,2,2-trifluoro-ethyl)-1H-imidazole | IC=1N=C(N(C1)CC(F)(F)F)C | C6H6F3IN2
